* E:\IRGoKartTimingGate\LogicBoard.asc
* Generated by LTspice 24.1.4 for Windows.
X§U1 NC_01 NC_02 NC_03 NC_04 NC_05 OPA2333
D1 0 N001 OP999
R1 N002 N001 2Meg tol=1 pwr=0.1
V1 N003 0 5V
I1 N001 0 PULSE(6nA 0 0 0 0 .001 .002)
X§U2 0 N001 N003 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\Riley\AppData\Local\LTspice\lib\cmp\standard.dio
.lib OPA2333.lib
.MODEL OP999 D (IS=1e-12 RS=10 CJO=4p TT=5ns)
.tran 10ms
.lib UniversalOpAmp1.lib
.backanno
.end
